US09359362B2
(rac)-Ethyl 7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
Under an atmosphere of argon, ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate (300 mg, 1.2 mmol) and 1H-1,2,4-triazole-3-amine (130 mg, 1.5 mmol, 1.2 eq.) were dissolved in DMF (3 ml) and solid sodium bicarbonate (518 mg, 6.2 mmol, 5 eq.) was added. The mixture was stirred at 65° C. for 12 h. The mixture was then filtered, and the DMF from the filtrate was distilled off under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (233 mg, 50% of theory).

reactant | ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate | 1.2 mmol, 300 mg | C(#N)C1=CC=C(C=C(C(=O)OCC)C(C)=O)C=C1 | C14H13NO3
reactant | 1H-1,2,4-triazole-3-amine | 1.5 mmol, 130 mg, 1.2 eq. | N1N=C(N=C1)N | C2H4N4
reactant | sodium bicarbonate | 6.2 mmol, 518 mg, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (rac)-Ethyl 7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=CN2)C)C(=O)OCC | C16H15N5O2
